US07943639B2
tert-Butyl-4{3-[(4-isopropylphenyl)thio]quinolin-5-yl}-1,4-diazepane-1-carboxylate (General Method A)
The compound was prepared from tert-butyl 4-(6-bromoquinolin-4-yl)-1,4-diazepane-1-carboxylate (0.5 g, 1.23 mmol) and 4-isopropylbenzenethiol (0.19 g, 1.23 mmol). Yield: 0.27 g (46%) of the title compound that was used in the next step without further purification. HPLC 89%, RT: 3.67 min (5-99% MeCN containing 0.1% TFA over 3 min); MS (ESI+) for C28H35N3O2S m/z 478.2 (M+H)+.

reactant | tert-butyl 4-(6-bromoquinolin-4-yl)-1,4-diazepane-1-carboxylate | 1.23 mmol, 0.5 g | BrC=1C=C2C(=CC=NC2=CC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C19H24BrN3O2
reactant | 4-isopropylbenzenethiol | 1.23 mmol, 0.19 g | C(C)(C)C1=CC=C(C=C1)S | C9H12S
product | tert-Butyl-4{3-[(4-isopropylphenyl)thio]quinolin-5-yl}-1,4-diazepane-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=C2C=C(C=NC2=CC=C1)SC1=CC=C(C=C1)C(C)C | C28H35N3O2S
